US04394159
2-Chloro-3-phenylthio-6-nitroaniline
A mixture of 103.5 gm of 2,3-dichloro-6-nitroaniline (0.5 mol) and 72.5 gm of sodium thiophenolate (0.55 mol) was dissolved in 800 ml of acetonitrile, and the solution was refluxed for 5 hours. The mixture was then processed according to the procedure set forth in Example 22 (b)(i). The yield was 108 gm of ochre-coloured, crystalline product (77% of theory), m.p. 144°-146° C.

reactant | 2,3-dichloro-6-nitroaniline | 0.5 mol, 103.5 gm | ClC1=C(N)C(=CC=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | sodium thiophenolate | 0.55 mol, 72.5 gm | C1(=CC=CC=C1)[S-].[Na+]
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | 2-Chloro-3-phenylthio-6-nitroaniline | ClC1=C(N)C(=CC=C1SC1=CC=CC=C1)[N+](=O)[O-] | C12H9ClN2O2S
